US04360680
3-Amino-1-phenyl-5-p-tolyl-2-pyrazoline
A 1.0 g. amount of sodium metal is dissolved in 100 ml. of absolute ethanol, then 20.0 ml. of phenylhydrazine is added followed in 5 minutes by 24.0 ml. of (mixed cis and trans) 4-methyl cinnamonitrile. The reaction mixture is refluxed for 4 hours then is cooled. The precipitate is collected by filtration then is recrystallized from acetone-hexane after treatment with activated charcoal to give 14.25 g. of the desired product as pale orange needles, m.p. 165°-166.5° C.

reactant | sodium | [Na] | Na
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | 4-methyl cinnamonitrile | CC1=CC=C(C=CC#N)C=C1 | C10H9N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1-phenyl-5-p-tolyl-2-pyrazoline | NC1=NN(C(C1)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C16H17N3
